US07388015B2
A mixture of 1-(4-methyl-2-methylamino-thiazol-5-yl)-ethanone (0.40 g, 2.4 mmol) in THF (2 mL) was treated with NaH (0.113 g, 4.7 mmol). After heating at 40° C. for 0.5 h MeI (0.35 g, 2.4 mmol) was added. Heating was continued for a further 2 h. After cooling, the solution was diluted with EtOAc, washed with brine, and dried over MgSO4. The solvent was evaporated to afford 1-(2-dimethylamino-4-methyl-thiazol-5-yl)-ethanone as a yellow solid. 1H-NMR (CDCl3) δ: 2.36 (s, 3H, CH3), 2.51 (s, 3H, CH3), 3.10 (s, 6H, CH3).

reactant | 1-(4-methyl-2-methylamino-thiazol-5-yl)-ethanone | 2.4 mmol, 0.40 g | CC=1N=C(SC1C(C)=O)NC | C7H10N2OS
reactant | NaH | 4.7 mmol, 0.113 g | [H-].[Na+]
reactant | MeI | 2.4 mmol, 0.35 g | CI | CH3I
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-(2-dimethylamino-4-methyl-thiazol-5-yl)-ethanone | CN(C=1SC(=C(N1)C)C(C)=O)C | C8H12N2OS
